US08461134B2
To a solution of 6-amino-3H-benzo[c][1,2]oxaborol-1-ol (0.37 g, 2 mmol) and NMM (0.76 g, 7 mmol) in CH3CN (50 mL) was added a solution of 2-(3-oxobutyl)-4-(2,2,2-trifluoroacetamido)benzene-1-sulfonyl chloride (0.9 g, 2 mmol) in CH3CN (30 mL) dropwise at 0° C. The reaction mixture was stirred at room temperature for 2 hrs, then the reaction mixture was concentrated in vacuo, the residue was diluted with water and extracted with EtOAc, the organics was dried over Na2SO4, concentrated to give the crude product, the crude was purified by pre-HPLC (column: Luna 300×50.0 mm, 10 um; liquid phase: [A-H2O+0.05% TFA; B-MeCN] B %: 24%-51%, 23 min) to give 2,2,2-trifluoro-N-(4-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)-3-(3-oxobutyl)phenyl)acetamide (0.5 g, yield 42%) as yellow solid.

reactant | 6-amino-3H-benzo[c][1,2]oxaborol-1-ol | 2 mmol, 0.37 g | NC=1C=CC2=C(B(OC2)O)C1 | C7H8BNO2
reactant | NMM | 7 mmol, 0.76 g | CN1CCOCC1 | C5H11NO
reactant | 2-(3-oxobutyl)-4-(2,2,2-trifluoroacetamido)benzene-1-sulfonyl chloride | 2 mmol, 0.9 g | O=C(CCC1=C(C=CC(=C1)NC(C(F)(F)F)=O)S(=O)(=O)Cl)C | C12H11ClF3NO4S
solvent | CH3CN | 50 mL | CC#N | C2H3N
solvent | CH3CN | 30 mL | CC#N | C2H3N
product | 2,2,2-trifluoro-N-(4-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)-3-(3-oxobutyl)phenyl)acetamide | 0.5 g, yield 42% | FC(C(=O)NC1=CC(=C(C=C1)S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O)CCC(C)=O)(F)F | C19H18BF3N2O6S
